US05932590
Preparation of Methyl 2-(t-butyloxycarbonyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline-3(S)-carboxylate
To a solution of Methyl 2-(t-butyloxycarbonyl)-7-hydroxy-1,2,3,4-tetrahydroisoquinoline-3(S)-carboxylate (0.615 g, 2.0 mmol) in DMF (7 mL) was added K2CO3 (0.304 g, 2.2 mmol) and iodomethane (0.137 mL, 2.2 mmol). The mixture was stirred for 18 hr at 25° C. Approximately 14% of the starting material remained. An additional amount of iodomethane (0.050 mL) was added and stirring continued for 18 hr. The DMF was evaporated in vacuo and the residue was partitioned between EtOAc (50 mL) and saturated NaHCO3 (30 mL). The ethyl acetate layer was washed with saturated NaCl solution (30 mL) and dried (MgSO4). Filtration and evaporation in vacuo gave the title compound.

reactant | Methyl 2-(t-butyloxycarbonyl)-7-hydroxy-1,2,3,4-tetrahydroisoquinoline-3(S)-carboxylate | 2.0 mmol, 0.615 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C[C@H]1C(=O)OC)O | C16H21NO5
reactant | K2CO3 | 2.2 mmol, 0.304 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 2.2 mmol, 0.137 mL | IC | CH3I
reactant | iodomethane | 0.050 mL | IC | CH3I
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | Methyl 2-(t-butyloxycarbonyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline-3(S)-carboxylate | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C[C@H]1C(=O)OC)OC | C17H23NO5
